US05451594
To a stirred solution of 2-(4,4-difluorobut-3-enylthio)-4-hydroxy benzoxazole (Compound No. 82, Example 4B(iii), 504mg) in acetone (10 cm3) was added iodomethane (278 mg) and potassium carbonate (270 mg). The reaction mixture was stirred at the ambient temperature for 51/2 hours, then allowed to stand at the ambient temperature for 18 hours. Gc analysis indicated complete consumption of starting material. The reaction mixture was poured into ethyl acetate and and water, the layers separated and the aqueous phase extracted twice with ethyl acetate. The combined organic layers were washed with water, brine, dried (MgSO4) and evaporated under reduced pressure to a yellow oil. Purification by silica-gel chromatography using 5% ethyl acetate in hexane as the eluent gave 2-(4,4-difluorobut-3-enylthio)-4-methoxy-benzoxazole as a colourless oil (290 mg). 1H NMR (CDCl3) δ7.19(1H,t); 7.08(1H,d); 6.78(1H,d); 4.30(1H,ddt); 3.39(1H,t); 2.55(q).

reactant | 2-(4,4-difluorobut-3-enylthio)-4-hydroxy benzoxazole | FC(=CCCSC=1OC2=C(N1)C(=CC=C2)O)F | C11H9F2NO2S
reactant | iodomethane | 278 mg | IC | CH3I
reactant | potassium carbonate | 270 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 10 cm3 | CC(=O)C | C3H6O
product | 2-(4,4-difluorobut-3-enylthio)-4-methoxy-benzoxazole | 290 mg | FC(=CCCSC=1OC2=C(N1)C(=CC=C2)OC)F | C12H11F2NO2S
